US04175131
1-Butyl-3-hexyl-1-(4-methyl-2-oxazolyl)urea
A solution of 2-butylamino-4-methyloxazole (10.0 g, 0.065 mol) and hexyl isocyanate (8.25 g, 0.065 mol) in dry benzene was heated under reflux for 3 hours. The solution was evaporated and the residual oil dissolved in ether, washed with dilute HCl, dried and re-evaporated. The residue was dissolved in petroleum spirit (40°-60° C.) carbon treated and re-evaporated under vacuum to give the pure product as a pale oil.

reactant | 2-butylamino-4-methyloxazole | 0.065 mol, 10.0 g | C(CCC)NC=1OC=C(N1)C | C8H14N2O
reactant | hexyl isocyanate | 0.065 mol, 8.25 g | C(CCCCC)N=C=O | C7H13NO
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-Butyl-3-hexyl-1-(4-methyl-2-oxazolyl)urea | C(CCC)N(C(=O)NCCCCCC)C=1OC=C(N1)C | C15H27N3O2
